US05977105
b) 3'-Chlorobiphenyl-4-ol
A mixture of 3'-chloro-4-methoxybiphenyl (2.00 g), acetic acid (25 ml) and concentrated hydrobromic acid (25 ml) was heated at reflux for 6 hours. After cooling the reaction was added to water (200 ml) and the solution extracted with ether (300 ml). The ethereal solution was washed with saturated aqueous sodium hydrogencarbonate solution (2×150 ml), dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with dichloromethane:hexane (1:1) then dichloromethane to give the sub-title compound as a white solid (1.44 g).

reactant | 3'-chloro-4-methoxybiphenyl | 2.00 g | ClC=1C=C(C=CC1)C1=CC=C(C=C1)OC | C13H11ClO
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | 25 ml | Br | BrH
solvent | water | 200 ml | O | H2O
product | 3'-Chlorobiphenyl-4-ol | 1.44 g | ClC=1C=C(C=CC1)C1=CC=C(C=C1)O | C12H9ClO
